US08809380B2
Step 1. ethyl 3-(((2R,4S)-1-(tert-butoxycarbonyl)-4-((tert-butyldimethylsilyl)oxy)pyrrolidin-2-yl)methoxy)picolinate
The title compound was prepared according to the procedure described in Step 1 of EXAMPLE 29 using (2R,4S)-tert-butyl 4-((tert-butyldimethylsilyl)oxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate (PCT Int. Appl., WO2009026197) and ethyl 3-hydroxypicolinate instead of (R)-pyrrolidin-2-ylmethanol and 5-chloropyridin-3-ol.

reactant | (2R,4S)-tert-butyl 4-((tert-butyldimethylsilyl)oxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)CO | C16H33NO4Si
reactant | ethyl 3-hydroxypicolinate | OC=1C(=NC=CC1)C(=O)OCC | C8H9NO3
reactant | 5-chloropyridin-3-ol | ClC=1C=C(C=NC1)O | C5H4ClNO
product | ethyl 3-(((2R,4S)-1-(tert-butoxycarbonyl)-4-((tert-butyldimethylsilyl)oxy)pyrrolidin-2-yl)methoxy)picolinate | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)O[Si](C)(C)C(C)(C)C)COC=1C(=NC=CC1)C(=O)OCC | C24H40N2O6Si
